US07060836B2
(5S)-5-(3,4-Dichlorophenyl)-5-(1,3-dioxolan-2-ylmethyl)-1-(6-methyl-2-pyridinyl)-2-piperidinone
A mixture of (5S)-5-(3,4-dichlorophenyl)-5-(1,3-dioxolan-2-ylmethyl)-2-piperidinone (WO 9807722) (6.5 g, 19.7 mmol), potassium carbonate (3.05 g, 21.7 mmol), copper (I) iodide (400 mg, 2.1 mmol) and 2-bromo-6-methylpyridine (10.2 g, 60 mmol) in 1-methyl-2-pyrrolidinone (200 ml) was stirred at 140° C. for 24 hours. The cooled mixture was partitioned between ethyl acetate and 10% aqueous ammonia, and the layers separated. The aqueous phase was extracted with ethyl acetate, and the combined organic extracts were washed with water, then brine (3×), dried (MgSO4) and evaporated under reduced pressure to give a gum. The crude product was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:pentane (0:100 to 100:0) to afford the title compound as a brown solid, 3.02 g.

reactant | (5S)-5-(3,4-dichlorophenyl)-5-(1,3-dioxolan-2-ylmethyl)-2-piperidinone | 19.7 mmol, 6.5 g | ClC=1C=C(C=CC1Cl)[C@]1(CCC(NC1)=O)CC1OCCO1 | C15H17Cl2NO3
reactant | potassium carbonate | 21.7 mmol, 3.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-6-methylpyridine | 60 mmol, 10.2 g | BrC1=NC(=CC=C1)C | C6H6BrN
solvent | 1-methyl-2-pyrrolidinone | 200 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) iodide | 2.1 mmol, 400 mg | [Cu]I
product | (5S)-5-(3,4-Dichlorophenyl)-5-(1,3-dioxolan-2-ylmethyl)-1-(6-methyl-2-pyridinyl)-2-piperidinone | ClC=1C=C(C=CC1Cl)[C@]1(CCC(N(C1)C1=NC(=CC=C1)C)=O)CC1OCCO1 | C21H22Cl2N2O3
